US06831193B2
3-(phenylsulfanyl)benzaldehyde
2-(3-Bromophenyl)-1,3-dioxolane (1.00 mL, 6.61 mmol) in THF (10 mL) was treated with 1.6M n-BuLi in hexanes (4.34 mL, 6.94 mmol) at −78° C. After stirring for 10 minutes, the mixture was treated with diphenyl disulfide (1.44 g, 6.61 mmol) and the reaction mixture was stirred overnight without replenishing the cooling bath. The reaction mixture was quenched with 20 mL of water and extracted with diethyl ether (3×50 mL.) The organic layers were combined, dried over MgSO4, filtered and the filtrate concentrated. The crude oil was stirred in 25 mL of a 5:1 solution of CH3CN/1N HCl overnight. The reaction mixture was diluted with 50 mL of brine and extracted with diethyl ether (3×50 mL.) The organic layers were combined, dried over MgSO4, filtered and the filtrate concentrated to provide the title compound which was used without further purification.

reactant | 2-(3-Bromophenyl)-1,3-dioxolane | 6.61 mmol, 1.00 mL | BrC=1C=C(C=CC1)C1OCCO1 | C9H9BrO2
reactant | n-BuLi | 1.6M | [Li]CCCC
reactant | diphenyl disulfide | 6.61 mmol, 1.44 g | C1(=CC=CC=C1)SSC1=CC=CC=C1 | C12H10S2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 3-(phenylsulfanyl)benzaldehyde | C1(=CC=CC=C1)SC=1C=C(C=O)C=CC1 | C13H10OS
